US06166011
Di-tert-butyldicarbonate (523 mg) was added to a solution of 2-chloro-5-methoxy-1H-1,3-benzimidazole (364 mg) and dimethylaminopyridine (24 mg) in acetonitrile (4 ml). The reaction mixture was stirred at room temperature for 30 minutes, after which time the solvent was removed under reduced pressure. The crude product was purified by column chromatography on silica gel eluting with a solvent gradient of 90:10 changing to 85:15, by volume, hexane:ethyl acetate to afford tert-butyl 2-chloro-5-methoxy-1H-1,3-benzimidazole-1-carboxylate (470 mg) as an off-white solid, as a 1:1 mixture of regioisomers.

reactant | Di-tert-butyldicarbonate | 523 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2-chloro-5-methoxy-1H-1,3-benzimidazole | 364 mg | ClC1=NC2=C(N1)C=CC(=C2)OC | C8H7ClN2O
reactant | dimethylaminopyridine | 24 mg | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | acetonitrile | 4 ml | C(C)#N | C2H3N
product | tert-butyl 2-chloro-5-methoxy-1H-1,3-benzimidazole-1-carboxylate | 470 mg | ClC1=NC2=C(N1C(=O)OC(C)(C)C)C=CC(=C2)OC | C13H15ClN2O3
